US04152449
g 20 of 5-carbomethoxy-2-benzyloxy-acetophenone, m.p.= 86°-88° C. dissolved in methylene chloride (ml 200) were reacted with bromine (9.8 g) at 10° C. for 15 minutes. After treatment with 10% sodium sulphite and water, the organic phase was evaporated to dryness The residue, crystallized from isopropyl ether, gave 5-carbomethoxy-2-benzyloxy-ω-bromo-acetophenone (17 g), m.p.= 84°-86° C., which was dissolved in dimethylformamide (85 ml) and reacted with anhydrous potassium acetate (5.6 g) at 50° C. for 2 hours. After cooling, and dilution with water, the precipitate was filtered and washed with cold methanol so obtaining 5-carbomethoxy-2-benzyloxy-ω-acetoxy-acetophenone (12.9 g), m.p.==86°-87° C., which was dissolved in tetrahydrofuran (40 ml) and ethanol (20 ml); few drops of concentrated HCl were added and then the solution was hydrogenated at atmospheric pressure and room temperature in the presence of 5% Pd/C(2.5g) to the theoretical hydrogen consumption. The mixture was filtered to remove the catalyst and the organic solution was evaporated to dryness so obtaining crude 5-carbomethoxy-2-hydroxy-ω-acetoxy-acetophenone (9.2 g), which was dissolved in dioxane (20 ml) and pyridine (10 ml) and reacted with trans-cinnamoyl-chloride (9.4 g) at room temperature for 8 hours. The reaction mixture was diluted with water and acidified to pH 4. The precipitate was filtered, dried and dissolved in methyl-ethyl-ketone (100 ml); anhydrous K2CO3 (9.3 g) was added and the mixture was vigorously stirred under reflux for 5 hours. After cooling, the mixture was diluted with hexane (150 ml) and filtered. The collected product was treated with acetic acid (40 ml) and 57% HI (10 ml) under reflux for 4 hours. After cooling, the precipitate was filtered, washed with acetic acid and then with water until neutral; the obtained 6-carboxy-2-trans-styryl-3-hydroxy-chromone (6.1 g), [m.p.>320° C. (dec.), Mass Spectrum: m/e 308 (M+), m/e 291, m/e 278, m/e 263, m/e 231, m/e 165, m/e 143], was dissolved in dimethylformamide (120 ml) and reacted with ethyl iodide (5.1 ml) in the presence of anhydrous K2CO3 (8.4 g) at 50° C. overnight. After cooling the mixture was diluted with water, filtered, washed with water and crystallized from methanol so obtaining 6-carbethoxy-3-ethoxy-2-trans-styryl-chromone (4.65 g), m.p.= 126°-128° C., which was hydrolyzed with a solution of 1% KOH (68.5 ml) in 95% ethanol under reflux for 30 minutes. After cooling, the product was acidified with 23% HCl, filtered and washed until neutral with water so obtaining 6-carboxy-3-ethoxy-2-trans-styryl-chromone (3.15 g), m.p.= 252°-254° C., IR: δ(C-H)>C=C<(trans)955 cm-1, NMR (CF3COOD):vinylic protons δHβ =7.56(d), δHα =8.19(d) p.p.m., JHαHβ =16 Hz.

reactant | 5-carbomethoxy-2-benzyloxy-acetophenone | C(=O)(OC)C=1C=CC=C(COCC(=O)C2=CC=CC=C2)C1 | C17H16O4
reactant | bromine | 9.8 g | BrBr | Br2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-carbomethoxy-2-benzyloxy-ω-bromo-acetophenone | 17 g | C(=O)(OC)C=1C=CC=C(COC(C(=O)C2=CC=CC=C2)Br)C1 | C17H15BrO4
